US08044052B2
Diethyl hydroxy(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylphosphonate
To an ethereal solution of 3-(5-(trifluoromethyl)pyridin-2-yloxy)benzaldehyde (1.6 g, 5.98 mmol) and LiClO4 (5 mL, 5 M solution in diethylether) was added triethyl phosphite (1.24 g, 7.48 mmol) and TMSCl (0.813 g, 7.48 mmol) at 0° C. The reaction mixture was allowed to reach RT and stirred for 10 min. The reaction was quenched by adding distilled water (10 mL), extracted with CH2Cl2, dried and concentrated to dryness. The residue was purified by column chromatography (1:1 EtOAc:Hexane) to afford pure title compound (1.3 g). 1H NMR (500 MHz, CDCl3): δ 1.2 (m, 6H), 2.9 (m, 1H), 4.0 (m, 4H), 5.0 (d, 1H, J=11 Hz), 7.0 (d, 1H, J=8.5 Hz), 7.1 (d, 1H, J=7.5 Hz), 7.3 (s, 1H), 7.4 (m, 1H), 7.8 (m, 1H), 8.4 (s, 1H).

reactant | 3-(5-(trifluoromethyl)pyridin-2-yloxy)benzaldehyde | 5.98 mmol, 1.6 g | FC(C=1C=CC(=NC1)OC=1C=C(C=O)C=CC1)(F)F | C13H8F3NO2
reactant | triethyl phosphite | 7.48 mmol, 1.24 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | TMSCl | 7.48 mmol, 0.813 g | C[Si](C)(C)Cl | C3H9ClSi
product | Diethyl hydroxy(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylphosphonate | 1.3 g | OC(C1=CC(=CC=C1)OC1=NC=C(C=C1)C(F)(F)F)P(OCC)(OCC)=O | C17H19F3NO5P
